US05318721
A mixture of 0.03 m of p-(trans-4-pentylcyclohexyl)-benzyl bromide (obtainable from p-(trans-4-pentylcyclohexyl)-benzoic acid), 0.03 m of p-(trifluoromethyl)-phenol, 0.03 m of potassium carbonate and 40 ml of DMF are warmed to 120° while stirring under the exclusion of air and, after cooling, worked up as usual. p-(Trifluoromethyl)-phenyl p-(trans-4-pentylcyclohexyl)benzyl ether is obtained.

reactant | p-(trans-4-pentylcyclohexyl)-benzyl bromide | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(CBr)C=C1 | C18H27Br
reactant | p-(trifluoromethyl)-phenol | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | p-(Trifluoromethyl)-phenyl p-(trans-4-pentylcyclohexyl)benzyl ether | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C25H31F3O
